US06177432B1
A mixture of (4-chlorophenyl)(4-nitrophenyl)methanone (0.0382 mol), 1,2-ethanediol (0.0764 mol) and 4-methylbenzenesulfonic acid monohydrate 96% (0.19 mol) in methylbenzene (150 ml) was stirred and refluxed in a Dean Stark apparatus for 24 hours. The mixture was washed with K2CO3 (10%) and then with water. The organic layer was dried, filtered off and evaporated. The product was used without further purification, yielding 11.42 g (98%) of 2-(4-chlorophenyl)-2-(4-nitrophenyl)-1,3-dioxolane (interm. 1).

reactant | (4-chlorophenyl)(4-nitrophenyl)methanone | 0.0382 mol | ClC1=CC=C(C=C1)C(=O)C1=CC=C(C=C1)[N+](=O)[O-] | C13H8ClNO3
reactant | 1,2-ethanediol | 0.0764 mol | C(CO)O | C2H6O2
reactant | 4-methylbenzenesulfonic acid monohydrate | 0.19 mol | O.CC1=CC=C(C=C1)S(=O)(=O)O
solvent | methylbenzene | 150 ml | CC1=CC=CC=C1 | C7H8
product | 2-(4-chlorophenyl)-2-(4-nitrophenyl)-1,3-dioxolane | 11.42 g, 98% | ClC1=CC=C(C=C1)C1(OCCO1)C1=CC=C(C=C1)[N+](=O)[O-] | C15H12ClNO4
